US07820707B2
2-(2-(4-(ethoxymethyl)-3-(trifluoromethyl)pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
To a solution of 2-(2-(4-(hydroxymethyl)-3-(trifluoromethyl)pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (20 mg, 0.05 mmol) in DMF (2 mL) was added NaH (7 mg, 0.29 mmol) under an atmosphere of N2. The reaction mixture was stirred at RT for 30 min before addition of iodoethane (20 mg, 0.13 mmol). The reaction mixture was heated at 65° C. for 3 h then left to stand at RT overnight. Water (2 mL) was added and the reaction mixture extracted with EtOAc (3×5 mL). The combined EtOAc layers were washed with water (3×10 mL), brine (10 mL), dried over MgSO4 and the solvent removed in vacuo. The residue was purified by preparative reverse phase HPLC to give the desired product as a clear gum (6.7 mg, 0.016 mmol, 31%).

reactant | 2-(2-(4-(hydroxymethyl)-3-(trifluoromethyl)pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.05 mmol, 20 mg | OCC=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N)C(F)(F)F | C16H17F3N4O3S
reactant | NaH | 0.29 mmol, 7 mg | [H-].[Na+]
reactant | iodoethane | 0.13 mmol, 20 mg | ICC | C2H5I
reactant | Water | 2 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(2-(4-(ethoxymethyl)-3-(trifluoromethyl)pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.016 mmol, 6.7 mg, 31% | C(C)OCC=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N)C(F)(F)F | C18H21F3N4O3S
